US07405215B2
a.) [3-(2-Isopropyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid tert-butyl ester (Scheme 2)
2-Iodopropane (7 μL, 67 μmol) and K2CO3 (10 mg, 72 μmol) were added to a solution of 4-(5-fluoro-2-methyl-1H-indol-3-yl)-2H-benzo[e][1,2,3]thiadiazine 1,1-dioxide (20 mg, 61 μmol) in CH3CN (1 mL), and stirred overnight at 80° C. An additional amount of K2CO3 (10 mg, 72 μmol) and tert-butyl bromoacetate (14 μL, 92 μmol) was added, and the reaction mixture stirred an additional 2 h at 80° C. The reaction mixture was diluted with H2O and CH2Cl2, and filtered through an Extrelut column. The Extrelut column was washed with CH2Cl2, and the filtrate was concentrated to afford the sub-title compound, which was carried onto the next step without further purification or characterization.

reactant | 2-Iodopropane | 67 μmol, 7 μL | IC(C)C | C3H7I
reactant | K2CO3 | 72 μmol, 10 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(5-fluoro-2-methyl-1H-indol-3-yl)-2H-benzo[e][1,2,3]thiadiazine 1,1-dioxide | 61 μmol, 20 mg | FC=1C=C2C(=C(NC2=CC1)C)C1=NNS(C2=C1C=CC=C2)(=O)=O | C16H12FN3O2S
reactant | K2CO3 | 72 μmol, 10 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromoacetate | 92 μmol, 14 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [3-(2-Isopropyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=C(C2=CC(=CC=C12)F)C1=NN(S(C2=C1C=CC=C2)(=O)=O)C(C)C)C)=O | C25H28FN3O4S
